Name:  ___                Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___
 
Chief Complaint:
Bilateral foot pain
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
HISTORY OF PRESENTING ILLNESS:  
==============================
___ is a ___ man with history of homelessness,
marijuana use, and opiate abuse on suboxone who presents on
___ with foot pain found to have bilateral PE, course c/b
nausea thought due to recent medication changes.

On presentation, he reported that he had walked 10+ miles and
subsequently developed blisters on his feet and pain when
walking. He stated that due to the pain, he was unable to walk
anymore but denied numbness/tingling/trauma or other symptoms. 
He
is normally seen at ___ and was supposed to get to an 
appointment
at 11:15AM on ___ but stated that he could not walk anymore
despite having ___.  

___ ED COURSE
On arrival, his vital signs were overall normal with slightly
elevated BP to 148/83. Otherwise he was afebrile, on room air
with RR 20.  
On exam, he was found to have skin blisters on his feet and had
gauze placed over his abrasions.  
His labs were notable for a CBC with anemia (Hgb 10.7, Hct 33.4)
but normal chem panel (Cr 0.8), CK (206), LFTs (other than 
lipase
61).  
Serum tox was negative.  
A d-dimer was sent for unclear reasons and returned elevated at
691.  

Of note, he then developed worsening abdominal pain on ___ AM
and endorsed diaphoresis and emesis. He denied chest pain or
shortness of breath. There was concern for cannibinoid
hyperemesis given frequent marijuana use, but given the elevated
d-dimer, a CTA chest and CT A/P were performed.  
The CTA then identified bilateral segmental and subsegmental PEs
with no evidence of heart strain (trop < 0.01). He was
hemodynamically stable, so he was started on a DOAC. Social work
and case manager were consulted for possible placement at 
___ with plan to discharge.  
Unfortunately, ___ declined the patient stating that
they cannot offer a bed given that his needs are not acute and
that beds are tight. Unless he was on warfarin requiring INR
checks, they felt that he could manage it on his own.  
Since the patient continued to have diaphoresis, vomiting, and
inability to tolerate PO, he was admitted.  

In the ED he received  
- Several boluses of LR  
- IV Zofran 4mg x 3 and Iv ativan 1mg  
- IV haloperidol 2mg  
- Apixaban 10mg  
- Home meds (lexapro, buproprion)  
Vitals on transfer: T 98.3 HR 64 BP 149/85 RR 17 O2 Sat 99% RA  

Upon arrival to the floor, he reports that he came to the ED due
to bilateral foot pain with swelling up to the shins. He denied
any recent sedentary periods, long commutes, or family history 
of
thrombophilia or autoimmune disease. He notes his feet swelling
have subsided. 

He also states that he is nauseous. He is part of the ABOVE
program at ___ (psychiatry program) who going forward will 
manage
his medications. In the interim of being set up with a provider,
he saw a new provider two weeks ago who made medication changes,
notably discontinuing Lexapro and replacing for Wellbutrin, as
well as unspecified changes to Adderall. These changes are not
within the purview to his current ABOVE providers. Patient
reports that he was doing well on his Lexapro and Adderall
regimen and is unclear why they were changed; he also notes that
he gets nauseous when he does not receive his medications. He
notes nausea with vomiting for the last ___ days, bilious,
non-hematemesis. He denies fevers/chills, diarrhea, bloody 
stool.
He also reports that for his nausea he has been self-treating
with marijuana and alcohol with relief (2 beers/hr through the
day). He maintains that he does not binge, but rather maintains
steady dosing. He denies history of withdrawal or
hospitalizations for either.

History Obtained From: Patient, Chart, Above program at ___

REVIEW OF SYSTEMS
==============================
Positive per HPI. Otherwise negative.

 
Past Medical History:
PAST MEDICAL HISTORY:
==============================  
ADHD
Opiate abuse
Marijuana use
Depression
 
Social History:
___
Family History:
FAMILY HISTORY:
==============================  
No family history of thrombophilia, autoimmune disease.
 
Physical Exam:
ADMISSION PHYSICAL EXAMINATION
==============================  
VS: ___ 0737 Temp: 98.4 PO BP: 143/92 HR: 61 RR: 18 O2 sat:
98% O2 delivery: RA Dyspnea: 0 RASS: 0 Pain Score: ___ 
GENERAL: Well developed, well nourished man in NAD. Oriented x3.
Diaphoretic, pleasant and appreciative alongside slight
hyperactivity and agitation.
HEENT: PERRL. EOMI. Conjunctiva were pink. No pallor or cyanosis
of the oral mucosa. 
CARDIOVASCULAR: Regular rate and rhythm. Normal S1, S2. No
murmurs, rubs, or gallops. No JVD. 
LUNGS: Respiration is unlabored with no accessory muscle use. No
crackles, wheezes or rhonchi.  
ABDOMEN: Soft, non-tender, non-distended. No hepatomegaly. No
splenomegaly.  
EXTREMITIES: Warm, well perfused. No peripheral edema, erythema,
tenderness of calves. Distal pulses palpable and symmetric.
SKIN: No significant skin lesions or rashes.  
NEURO: CN II-XII grossly intact. Strength ___ bilaterally in
upper and lower extremities. Sensation intact symmetrically. 

DISCHARGE PHYSICAL EXAMINATION
==============================  
GENERAL: Well developed, well nourished man in NAD. Oriented x3.
Non-diaphoretic, pleasant and appreciative alongside slight 
agitation.
HEENT: PERRL. EOMI. Conjunctiva were pink. No pallor or cyanosis
of the oral mucosa. 
CARDIOVASCULAR: Regular rate and rhythm. Normal S1, S2. No
murmurs, rubs, or gallops. No JVD. 
LUNGS: Respiration is unlabored with no accessory muscle use. No
crackles, wheezes or rhonchi.  
ABDOMEN: Soft, non-tender, non-distended. No hepatomegaly. No
splenomegaly.  
EXTREMITIES: Warm, well perfused. No peripheral edema, erythema,
tenderness of calves. Distal pulses palpable and symmetric.
SKIN: No significant skin lesions or rashes.  
NEURO: CN II-XII grossly intact. Strength ___ bilaterally in
upper and lower extremities. Sensation intact symmetrically. 
 
Pertinent Results:
ADMISSION LABS
==============================  
___ 01:55AM BLOOD WBC-5.1 RBC-3.59* Hgb-10.7* Hct-33.4* 
MCV-93 MCH-29.8 MCHC-32.0 RDW-14.9 RDWSD-50.2* Plt ___
___ 01:55AM BLOOD Neuts-66.2 ___ Monos-10.8 Eos-2.4 
Baso-0.4 Im ___ AbsNeut-3.37 AbsLymp-1.01* AbsMono-0.55 
AbsEos-0.12 AbsBaso-0.02
___ 01:55AM BLOOD ___ PTT-28.3 ___
___ 01:55AM BLOOD D-Dimer-691*
___ 01:55AM BLOOD Glucose-97 UreaN-8 Creat-0.8 Na-143 K-4.2 
Cl-107 HCO3-23 AnGap-13
___ 01:55AM BLOOD ALT-14 AST-17 CK(CPK)-206 AlkPhos-43 
TotBili-0.2
___ 01:55AM BLOOD Lipase-61*
___ 01:55AM BLOOD proBNP-145*
___ 10:23AM BLOOD cTropnT-<0.01
___ 01:55AM BLOOD Albumin-3.8 Calcium-8.7 Phos-3.5 Mg-2.0

DISCHARGE LABS
==============================  
___ 04:50AM BLOOD ASA-NEG Ethanol-NEG Acetmnp-NEG 
Tricycl-NEG
___ 06:00AM BLOOD Calcium-8.7 Phos-4.0 Mg-2.0
___ 04:50AM BLOOD Lipase-26
___ 04:50AM BLOOD ALT-14 AST-14 AlkPhos-49 TotBili-0.4
___ 06:00AM BLOOD Glucose-92 UreaN-7 Creat-0.8 Na-142 K-3.6 
Cl-101 HCO3-28 AnGap-13
___ 04:50AM BLOOD Neuts-77.5* Lymphs-11.5* Monos-9.3 
Eos-0.9* Baso-0.4 Im ___ AbsNeut-3.51 AbsLymp-0.52* 
AbsMono-0.42 AbsEos-0.04 AbsBaso-0.02
___ 04:50AM BLOOD WBC-4.5 RBC-3.95* Hgb-11.9* Hct-36.3* 
MCV-92 MCH-30.1 MCHC-32.8 RDW-14.1 RDWSD-46.7* Plt ___

PERTINENT STUDIES
==============================  
___ LOWER EXTREMITY ULTRASOUND
1. Thrombosis of one of the deep veins of the left calf, likely 
the
gastrocnemius or soleal vein.
2. No DVT within the right lower extremity.

___ CTA CHEST&ABDOMEN
1. Bilateral segmental and subsegmental pulmonary emboli with no 
CT evidence
of right heart strain or acute pulmonary parenchymal infarct.
2. No acute abdominopelvic process.
3. Bilateral gynecomastia. 

 
Brief Hospital Course:
======================
TRANSITIONAL ISSUES 
======================
- apixaban for unprovoked pulmonary embolism: 10mg BID x7d 
(___), then 5mg BID x3 months (___)
- consider thrombophilia work-up including APLS testing in this 
young patient 
- if concern for serotonin withdrawal, consider Lexapro taper or 
adjunctive Wellbutrin dosing
- continue to discuss options for housing. resources for 
homeless shelter provided at discharge

MEDICATION CHANGES
- NEW: apixaban: 10mg BID x7d (___), then 5mg BID x3 
months (___)
- STOPPED: Wellbutrin
- CHANGED: restarted escitalopram 10mg daily

======================
BRIEF HOSPITAL COURSE
======================
___ with homelessness, marijuana use, and opiate abuse on 
suboxone who presents on ___ with foot pain found to have 
bilateral PE, course c/b nausea thought due to recent SSRI 
discontinuation and medication changes. 

ACTIVE ISSUES: 
#Pulmonary Embolism
#DVT, unprovoked
Presenting with leg pain and swelling, found to have Left DVT 
and bilateral pulmonary embolisms. Hemodynamically stable, on 
room air, without evidence of heart strain. Patient denies 
knowledge of family history of thrombophilia, blood clots, or 
autoimmune disease. Denies recent prolonged sedentation. 
Concerning for unprovoked DVT and PE. Apixaban was started for 
unprovoked pulmonary embolism: 10mg BID x7d (___), 
then 5mg BID x3 months (___).

#Nausea/Vomiting
#ADHD
#Depression
Patient reports history of nausea/vomiting precipitated with not 
receiving his medications, now with nausea/vomiting of ___ days 
iso medication adjustments two weeks prior (notably 
discontinuation of Lexapro for Wellbutrin) with resultant poor 
PO intake and inability to intake his medications. Patient with 
mild diaphoresis and slight hyperactivity concerning for 
possible withdrawal syndrome (potentially from abrupt SSRI 
cessation). Consideration granted to alcohol or opiate 
withdrawal although with low clinical suspicion and UTox 
negative for alcohol, also to cannabis hyperemesis although 
inconsistent timeline and cannabis with therapeutic effect. Upon 
admission, held Wellbutrin with resumption of Lexapro and 
continued home Adderall (addereall XR 20mg qam, 20mg ___ and 
suboxone ___ films BID). Observed relief of nausea and provided 
Ativan (no benefit from Zofran or Compazine) with eventual goal 
of regular diet, suggesting likely component of medication 
changes. 

# Disposition
# Homelessness
Patient with homelessness, provided with education and 
information about resources for shelters and other housing 
options prior to discharge. Of note, patient estranged from 
mother and unable to dispo to her home, but possibility that his 
boss is working on arranging housing.

# History of opiate use disorder
Continued home suboxone ___ films BID.
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Amphetamine-Dextroamphetamine XR 20 mg PO QAM 
2. Buprenorphine-Naloxone Tablet (8mg-2mg) 1 TAB SL BID 
3. BuPROPion 75 mg PO DAILY 
4. Escitalopram Oxalate 10 mg PO DAILY 
5. Amphetamine-Dextroamphetamine 20 mg PO QPM 

 
Discharge Medications:
1.  Apixaban 5 mg PO BID 
- 10mg twice a day for 7 days (___)
- 5mg twice a day for 3 months (___) 
RX *apixaban [Eliquis] 5 mg 1 tablet(s) by mouth twice a day 
Disp #*60 Tablet Refills:*0 
2.  Apixaban 10 mg PO BID 
- 10mg twice a day for 7 days (___)
- 5mg twice a day for 3 months (___) 
RX *apixaban [Eliquis] 5 mg 2 tablet(s) by mouth twice a day 
Disp #*24 Tablet Refills:*0 
3.  LORazepam 0.5 mg PO BID:PRN nausea 
RX *lorazepam 0.5 mg 1 tablet by mouth twice a day Disp #*6 
Tablet Refills:*0 
4.  Amphetamine-Dextroamphetamine XR 20 mg PO DAILY  
5.  Amphetamine-Dextroamphetamine 20 mg PO QPM  
6.  Buprenorphine-Naloxone Tablet (8mg-2mg) 1 TAB SL BID  
7.  Escitalopram Oxalate 10 mg PO DAILY  
8. HELD- BuPROPion 75 mg PO DAILY  This medication was held. Do 
not restart BuPROPion until you see your provider.

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
PRIMARY DIAGNOSES
==================
# Pulmonary Embolism
# DVT, unprovoked
# Nausea/Vomiting
# ADHD
# Depression
# History of opiate use disorder
# Homelessness

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.
Activity Status: Ambulatory - requires assistance or aid (walker 
or cane).

 
Discharge Instructions:
================================================  
PATIENT DISCHARGE INSTRUCTIONS
================================================  
Dear Mr. ___,

It was a pleasure taking care of you at the ___ 
___!  

WHY WAS I IN THE HOSPITAL?  
================================
- You were admitted because you had leg pain.
- You were also feeling nauseous. 

WHAT HAPPENED IN THE HOSPITAL?  
================================
- You were found to have blood clots in your left leg and on 
both sides of your lungs, and you were started on apixaban (a 
blood thinner) for treatment.
- You were feeling nauseated.  This was felt to be due to 
medication adjustments. You were optimized on your home meds and 
you were feeling better. 

WHAT SHOULD I DO WHEN I GO HOME?  
================================  
- Be sure to take your medications as prescribed and attend the 
appointments listed below. 
- Please contact your health care provider if you feel nauseous, 
have chest pain or shortness of breath, leg pain, or any other 
symptoms of concern.

Thank you for allowing us to be involved in your care, we wish 
you all the best!  

Your ___ Healthcare Team  
 
Followup Instructions:
___